US07915415B2
36.7 g (139 mmol) 2-bromophenanthridinone and 30.7 g (147 mmol) PCl5 were added to a 1 L multi-neck flask (equipped with stir arm, condenser, and base trap) along with 350 mL POCl3 and heated at 93° C. for 16 hours (note: evolution of HCl gas was predominant—destroyed by base trap). Afterwards, the mixture was assayed to determine complete consumption of 2-bromophenanthridinone. A dean stark trap was connected to the flask to remove the solvent by ½ volume. Subsequently, equal volumes of toluene were added and distilled off to remove majority of POCl3. After the third addition of toluene, the volume was reduced to 300 mL's and the remainder of the solvent removed via rotary evaporation. The solids were then recrystallized from toluene and dried to give 30.8 g (78.6% yield, 98% assay) 2-bromo-6-chlorophenanthridine as off white solids (GC-MS confirmed).

reactant | 2-bromophenanthridinone | 139 mmol, 36.7 g | BrC1C(C2=C3C=CC=CC3=CN=C2C=C1)=O | C13H8BrNO
reactant | PCl5 | 147 mmol, 30.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 350 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-bromo-6-chlorophenanthridine | 30.8 g, 78.6% yield | BrC1=CC2=C3C=CC=CC3=C(N=C2C=C1)Cl | C13H7BrClN
